US05679711
Preparation of sodium 2-[N,N-bis-(2-hydroxyethyl)-amino]-2-methylpropanoate.
2-[N,N-bis-(2-hydroxyethyl)amino]-2-methylpropanoic acid (423.46 grams, 2.21 moles) (this material is about 99% pure; it contains 1% H2O) is added with stirring to a cooled solution of pure sodium hydroxide (88.57 grams, 2.21 moles) in pyrogen-free distilled water (400 ml.). The mixture is stirred until solution is effected. After reaching room temperature, the solution is stirred while enough pyrogen-free distilled water is added to make the total volume 1,000 ml. The solution is sterilized by filtration. This solution contains 47.4% by weight of, or is 2.21 molar in, sodium 2-[N,N-bis-(2-hydroxyethyl)-amino]-2-methylpropanoate.

reactant | 2-[N,N-bis-(2-hydroxyethyl)amino]-2-methylpropanoic acid | 2.21 moles, 423.46 grams | OCCN(CCO)C(C(=O)O)(C)C | C8H17NO4
reactant | sodium hydroxide | 2.21 moles, 88.57 grams | [OH-].[Na+]
solvent | H2O | O | H2O
product | sodium 2-[N,N-bis-(2-hydroxyethyl)-amino]-2-methylpropanoate | OCCN(CCO)C(C(=O)[O-])(C)C.[Na+] | InChI=1S/C8H17NO4.Na/c1-8(2,7(12)13)9(3-5-10)4-6-11;/h10-11H,3-6H2,1-2H3,(H,12,13);/q;+1/p-1
